US08877782B2
(3,3-Dimethyl-morpholin-4-yl)-[6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-pyridin-3-yl]-methanone
As described for example 12, 6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-nicotinic acid (124 mg, 0.40 mmol) was converted using 3,3-dimethyl-morpholine instead of 2,2,2-trifluoroethylamine to the title compound (SiO2, heptane:ethyl acetate=80:20 to 30:70, 41 mg, 25%) which was obtained as a light brown oil. MS: m/e=408.1 [M+H]+.

reactant | 6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-nicotinic acid | 0.40 mmol, 124 mg | CC1=C(C(=NO1)C1=CC=CC=C1)COC1=NC=C(C(=O)O)C=C1 | C17H14N2O4
reactant | 3,3-dimethyl-morpholine | CC1(NCCOC1)C | C6H13NO
product | (3,3-Dimethyl-morpholin-4-yl)-[6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-pyridin-3-yl]-methanone | 41 mg, 25% | CC1(N(CCOC1)C(=O)C=1C=NC(=CC1)OCC=1C(=NOC1C)C1=CC=CC=C1)C | C23H25N3O4
